US05723475
Synthesis of 5-(4-chlorobutyrylamino)-2,3,4,5-tetrahydro-1-benzoxepine (9)
5-amino-2,3,4,5-tetrahydro-1-benzoxepine and 4-chlorobutyryl choride were used to produce the above compound in the same way as Reference Example 8.

reactant | 5-amino-2,3,4,5-tetrahydro-1-benzoxepine | NC1CCCOC2=C1C=CC=C2 | C10H13NO
reactant | 4-chlorobutyryl choride | ClCCCC(=O)Cl | C4H6Cl2O
product | 5-(4-chlorobutyrylamino)-2,3,4,5-tetrahydro-1-benzoxepine | ClCCCC(=O)NC1CCCOC2=C1C=CC=C2 | C14H18ClNO2
